US08217064B2
A mixture of ethyl 1-(5-chloro-4′-ethyl-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)cyclobutane carboxylate (350 mg, 0.84 mmol) and lithium hydroxide monohydrate (222 mg, 9.2 mmol) in a MeOH/THF/Water solvent mixture (10 ml/10 ml/10/ml) was stirred for 3 h at room temperature. After completion of the reaction, the volatiles were removed under reduced pressure. The residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (2×25 mL). The combined organic layers were washed with water, dried with Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by Flash Column Chromatography to give 1-(5-chloro-4′-ethyl-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)cyclobutane carboxylic acid (260 mg) as white solid. 1HNMR (CDCl3, 500 MHz): 7.42 (d, 2H), 7.38 (s, 1H), 7.22 (d, 2H) 7.20 (s, 1H), 3.85 (q, 2H); 2.82 (m, 2H), 2.71 (q, 2H), 2.52 (m, 2H), 2.15 (m, 1H), 1.91 (m, 1H); 1.27 (t, 3H).

reactant | ethyl 1-(5-chloro-4′-ethyl-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)cyclobutane carboxylate | 0.84 mmol, 350 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)CC)C1(CCC1)C(=O)OCC | C23H24ClF3O3
reactant | lithium hydroxide monohydrate | 9.2 mmol, 222 mg | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 1-(5-chloro-4′-ethyl-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)cyclobutane carboxylic acid | 260 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)CC)C1(CCC1)C(=O)O | C21H20ClF3O3
